US05932745
1-Dimethylamino-1-pentene-3-one
To an ice cold solution of 1-dimethylamino-2-pentyne (3.0 g) in dichioromethane (100 ml) was added 3-chloroperoxybenzoic acid (4.66 g) in small portions. After the reaction was stirred at 0° C. for 20 minutes, the mixture was passed over twenty weight equivalents of basic alumina (Brockmann Grade I, 150 mesh) and the N-oxide was eluted using a solution of 5% methanol in dichloromethane. All fractions containing 1-dimethylamino-2-pentyne N-oxide were combined and evaporated to near dryness in vacuo. The residue was treated successively three times with of methanol (ca. 100 ml) followed by evaporation to near dryness, and the volume of the solution was adjusted to 90 mL by addition of methanol. One third of this methanolic solution (30 ml) of the N-oxide (9 mmol) was heated to reflux for approximately 4 hours, cooled, evaporated to dryness in vacuo, and the residue was chromatographed over silica gel (2% methanol in dichloromethane was used as the eluant) to give upon evaporation of the solvent in vacuo the desired product as an oil. MS (+ES) m/z: 128 (M+H)+

reactant | 1-dimethylamino-2-pentyne | 3.0 g | CN(CC#CCC)C | C7H13N
reactant | 3-chloroperoxybenzoic acid | 4.66 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichioromethane | 100 ml | ClCCl | CH2Cl2
product | 1-Dimethylamino-1-pentene-3-one | CN(C=CC(CC)=O)C | C7H13NO
